Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ gentleman with history of DVTs 
(unknown date) on Coumadin who presents to ___ ED after a fall 
from bed.

Patient is a poor historian and cannot recall the event except 
reporting that he fell from bed.  He does not recall what he was 
doing or whether syncopal symptoms were associated.  Per report, 
his son found the patient this morning on the floor and brought 
him to an outside hospital.  At the outside hospital he was 
noted to have a hyper therapeutic INR with a noncontrast head CT 
showing a small amount of intraventricular hemorrhage in the 
left occipital horn.  At outside hospital INR was found to be 
4.9.  Vitamin K IV 10 and Kcentra 2400 unit was given at 9 AM 
___.  He was then sent to ___ for further evaluation.

Upon arrival, he was afebrile, hypertensive, otherwise stable.  
GCS was 14, patient was oriented to self. His hemoglobin was 
notable for 11 with hematocrit of 33.9. INR  1.2 after treatment 
as mentioned above.  Neurosurgery was consulted and recommended 
no surgical intervention and indicated.  they also recommend to 
hold coumadin for 7 days and dispel per ed.  Given the nature of 
fall, CT torso was obtained.  Patient's chief complaint at the 
time of evaluation his left groin and proximal medial thigh 
pain. He denies fever, chills, dysuria, change in bowel 
movements, shortness of breath, chest pain, heart palpitation, 
dizziness.
 
Past Medical History:
DVT on Coumadin
Glaucoma
 
Social History:
___
Family History:
Son - pancreatic cancer
Daughter - died of ovarian cancer
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

___ 1130 Temp: 97.2 PO BP: 166/86 L Lying HR: 66 RR: 18 O2
sat: 95% O2 delivery: Ra 

GENERAL: Alert and interactive. Sitting up in bed
HEENT: EOMI. Dry lips, poor dentition. 
CARDIAC: RRR w/ intermittent ectopic beats. III/VI systolic
murmur heard greatest at right upper ___ intercostal space
LUNGS: Left basilar lung has bronchial breath sounds. Otherwise
CTAB without increased work of breathing. 
ABDOMEN: NABS, soft, NT, ND
NEURO: AOx3 (hospital, did not know name of facility). CN ___
intact, strength is ___ in upper extremities, strength in left
lower extremity limited by pain with ___ strength at the ankle 
on
flexion and extension. 
PULSES: 2+ DP pulses bilaterally

ADMISSION PHYSICAL EXAM:
Vitals: 97.8 72 168/72 16 95% room air
Gen: AAO to self, NAD
HEENT: Normocephalic. PERRLA, EOMI. Sclerae anicteric. Hearing 
grossly intact. No ear drainage. Patent nares. MMM.
HEART: RRR, normal S1/S2, no m/r/g
LUNGS:  CTAB. No respiratory distress.
ABDOMEN: Soft, nondistended with good bowel sounds heard.  
Tenderness to palpation on left groin/medial thigh region, no 
evidence of ecchymoses.  No rebound/guarding.
EXTREMITIES: No tenderness to palpation below proximal thigh, no 
evidence of ecchymoses.  No evidence of compartment syndrome.  
Without cyanosis, clubbing or edema. ___ strength in right lower 
extremity.  ___ strength in left lower extremity.  ___ strength 
bilateral upper extremity.  Sensation intact.
NEUROLOGICAL:  Gross nonfocal
SKIN: Warm and dry without any rash

DISCHARGE PHYSICAL EXAM:
 
Pertinent Results:
ADMISSION LABS:
WBC-9.3 RBC-3.70* HGB-11.0* HCT-33.9* MCV-92 MCH-29.7 MCHC-32.4 
RDW-13.7 RDWSD-46.1
NEUTS-76.2* LYMPHS-9.2* MONOS-12.6 EOS-0.1* BASOS-0.2 IM 
___ AbsNeut-7.05* AbsLymp-0.85* AbsMono-1.17* AbsEos-0.01* 
AbsBaso-0.02
___ PTT-29.8 ___
GLUCOSE-93 UREA N-14 CREAT-0.7 SODIUM-140 POTASSIUM-3.8 
CHLORIDE-103 TOTAL CO2-24 ANION GAP-13

INTERVAL LABS:
TotProt-5.0* Albumin-2.9* Globuln-2.1 
Iron-56 calTIBC-170* Ferritn-385 TRF-131*
Ret Aut-2.2* Abs Ret-0.08

RADIOLOGY:
CXR ___:
No prior chest radiographs available.  Read in conjunction with 
torso CT ___. Right lung and right pleural space are 
normal.  Moderate enlargement of the cardiac silhouette is 
unchanged.  No mediastinal widening beyond that attributable to 
the dilated ascending thoracic aorta above the heavily calcified 
aortic valve.  No pneumothorax. Left lower lobe atelectasis is 
still substantial and there is a small to moderate residual left 
pleural effusion.

ECHO ___:
IMPRESSION: Normal global biventricular systolic function. At 
least moderate eccentric mitral regurgitation (one 
inferolaterally directed jet from systolic anterior mitral 
leaflet motion and a second anteroseptally directed jet). At 
least moderate eccentric aortic regurgitation directed along 
anterior mitral leaflet. Mild to moderate aortic stenosis with 
elevated gradients in part due to stroke volume from aortic 
regurgitation. Bilateral pleural effusions present. No prior TTE 
available for comparison. No resting LVOT gradient.

Bilateral lower extremity U/S ___:  negative for DVT

CT torso ___
1. Intramuscular hematomas involving the left quadratus lumborum 
muscle and  iliacus muscle with small volume associated left 
retroperitoneal hematoma. No signs of active bleeding. 
2. Aneurysmal dilation of the ascending thoracic aorta up to 4.8 
x 5.2 cm.  
3. Lower lobe and upper lobe opacities likely represent a 
combination of aspiration sequelae and atelectasis, small 
pleural effusions left greater than right. 
4. Cholelithiasis without cholecystitis. 
5. Perivesical fat stranding correlate for cystitis. 
6. Mild perirectal fat stranding, nonspecific, difficult to 
exclude mild proctitis. 
7. Dilated main pulmonary artery, correlate for pulmonary 
arterial hypertension. 

Repeat CT Head ___
Stable small focus of intraventricular hemorrhage in the lateral 
ventricle occipital horn. No evidence of obstructive 
hydrocephalus.

EKG: OSH ___ EKG with sinus rhythm with PACs, normal axis, 
no ST elevations or depressions, normal intervals, good R wave 
progression. 

 
Brief Hospital Course:
___ yo M with PMHx DVT on Coumadin who initially presented after 
an unwitnessed fall at home and was found to have 
intraventricular hemorrhage and left thigh hematomas transferred 
to medicine for further evaluation of fall and placement. 

ACUTE ISSUES:
=============
# Left intraventricular hemorrhage, stable: 
Neurosurgery was consulted in the emergency department. 
Supratherapeutic INR reversed with Vitamin K and K-centra with 
subsequent INR at 1.2 at ___. His exam was intact and 
repeat CT head did not reveal any mass effect or expansion with 
stable hematoma. They recommended holding Coumadin for at least 
7 days (___) and TBI pathway. No AED indicated. SBP remained 
< 160 without use of antihypertensives. 

# Unwitnessed fall:
# Syncope evaluation:
Briefly, pt with a recent history of falls, likely mechanical in 
nature in the setting of being deconditioned from recent 
hospitalization. No neurologic or cardiac symptoms of concern. 
Tele without arrhythmias though evidence of desats while 
sleeping. ___ recommended rehab. 
 
# Left quadrates lumborum + iliacus intramuscular hematomas:
HD stable and stable serial checks of H/H, hematoma likely self 
tamponade. Bilateral DP pulses strong. ****NOTE LEFT LEG 
WEAKNESS*****

# Anemia, normocytic:
Unknown baseline. Stable. No e/o bleed. Total protein gap is 
normal. Iron studies suggestive of iron sequestration.
- TI: consider remaining work up as outpatient

# Hypoxia while sleeping:
Recent hospitalization for influenza c/b PNA. Per tele, pt with 
episodic desats to the mid ___ while sleeping, good waveform. 
Currently 92% on RA. Asymptomatic from a respiratory standpoint. 
Exam initially w/ bibasilar crackles R>L followed by left sided 
bronchial sounds. ECHO with bilateral effusions. Repeat CXR with 
atelectasis and small pleural effusion. Used incentive 
spirometry. 

# History of unprovoked DVT:
Patient with chronic bilateral lower extremity DVTs on warfarin 
2mg daily. Although his falls appear to be associated with 
deconditioning a discussion about further AC should be had with 
the patient. He is overall a robust ___ year old and the risk of 
PE does appear to outweigh his risk of fall at this time but 
will need further discussion with family and whether or not IVC 
filter may be indicated down the line if AC is determined too 
high risk. Bilateral lower extremity U/S negative for DVT. WIll 
hold warfarin until ___, can consider holding indefinitely.

# Coping, dispo:
Difficulty coping re: age limitations and c/f dispo planning. SW 
consulted. 

CHRONIC/STABLE ISSUES:
===========================
# Moderate MR, AR: Noted on TTE, unlikely to be the cause of his 
fall.

# Glaucoma: Latanoprost 1 drop left eye QHS (home Bimatoprost 
non-formulary)

TRANSITIONAL ISSUES:
===========================
Code status: DNR/DNI
Discharge weight: ***

- Fall: 
[] Can follow up in concussion clinic if interested 

- Normocytic anemia:
[] Repeat CBC in 1 week of discharge
[] If persistently low (___) as an outpatient, consider 
further work up (B12, SPEP/UPEP/K:L, TSH)

- Incidental finding:
[] Ascending thoracic: aorta  aneurysm up to 4.8 x 5.2 cm. 
Consider f/u w/ Cardiac Surgery if repairing this aneurysm is 
within his goals of care.

- History of DVTs on Coumadin: 
[] Cannot restart Coumadin until ___ at the earliest
[] Discussion of whether or not Coumadin should be restarted 
given this fall and risk/benefit
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 2 mg PO DAILY16 
2. Lumigan 0.03% Ophth  (*NF*) 1 drop Other daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
4.  Lumigan 0.03% Ophth  (*NF*) 1 drop Other daily  
5. HELD- Warfarin 2 mg PO DAILY16  This medication was held. Do 
not restart Warfarin until your doctor tells you it is safe to 
do so

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: mechanical fall complicated by a left intraventricular 
hemorrahge and left lower extremity intramuscular hematoma

SECONDARY: supratherapeutic INR, left leg weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you slipped at home and were found to have a bleed in 
your brain and in your left leg. The bleeds were stable.

While you were here, you were given medication to reverse the 
coumadin to help your blood clot. You also worked with physical 
therapy and they recommended that you go to rehab.

When you leave the hospital, please make sure to follow up with 
your primary care doctor after rehab. If you develop any 
concerning symptoms, such as headache, visual changes, 
dizziness, difficulty walking, weakness, or anything else that 
concerns you, please call your doctor or return to the nearest 
emergency room.

It was a pleasure taking part in your care. We wish you all the 
best with your future health.

Sincerely,
The team at ___ 
 
Followup Instructions:
___